US07579368B2
e) 1-(3-Methanesulfonyl-propyl)-piperazine
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine and methanesulfonic acid 3-methanesulfonyl-propyl ester (prepared according to Baerlocher, F. J. et al. Aust. J. Chem. 1999, 52, 167-172) in an analogous manner as described in example 21.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | methanesulfonic acid 3-methanesulfonyl-propyl ester | CS(=O)(=O)CCCOS(=O)(=O)C | C5H12O5S2
product | 1-(3-Methanesulfonyl-propyl)-piperazine | CS(=O)(=O)CCCN1CCNCC1 | C8H18N2O2S
